US08119655B2
Compound 87: N-(2-(dimethylamino)ethyl)-5-(3-(ethylsulfonyl)phenyl)-3,8-dimethyl-9H-pyrido[2,3-b]indole-7-carboxamide
A mixture of 5-(3-(ethylsulfonyl)phenyl)-3,8-dimethyl-9H-pyrido[2,3-b]indole-7-carboxylic acid (3.0 g, 73 mmol), N,N-Dimethylethylene diamine (g, mmol), HATU (g, mmol), triethylamine (g, mmol) and DMF (mL) was stirred at room temperature for two days. The reaction mixture was poured over ice affording a precipitate, The resulting suspension was filtered, rinsed with H2O and dried in vacuo to g (%). 1H NMR (400 MHz, DMSO-d6): δ 12.04 (s, 1H), 8.28-8.31 (m, 2H), 8.12 (s, 1H), 8.01-8.05 (m, 2H), 7.89 (t, 1H), 7.52 (s, 1H), 7.12 (s, 1H), 3.43 (q, 2H), 2.63 (s, 3H), 2.27 (s, 3H), 2.20 (s, 6H), 1.17 (t, 3H). MS (ES) [m+H] calc'd for C26H30N4O3S, 479; found 479.4.

reactant | 5-(3-(ethylsulfonyl)phenyl)-3,8-dimethyl-9H-pyrido[2,3-b]indole-7-carboxylic acid | 73 mmol, 3.0 g | C(C)S(=O)(=O)C=1C=C(C=CC1)C1=C2C3=C(NC2=C(C(=C1)C(=O)O)C)N=CC(=C3)C | C22H20N2O4S
reactant | N,N-Dimethylethylene diamine | CN(CCN)C | C4H12N2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(2-(dimethylamino)ethyl)-5-(3-(ethylsulfonyl)phenyl)-3,8-dimethyl-9H-pyrido[2,3-b]indole-7-carboxamide | CN(CCNC(=O)C1=CC(=C2C3=C(NC2=C1C)N=CC(=C3)C)C3=CC(=CC=C3)S(=O)(=O)CC)C | C26H30N4O3S
